US07837899B2
c) Preparation of Poly(Butyl Acrylate)-Block-Poly(DEGEEA) (PBA-b-PDEGEEA)
A solution of 39.2 g (0.208 mol) of di(ethylene glycol) ethyl ether acrylate and 916 mg (0.0056 mol) of AIBN in 100 ml of dry toluene is degassed by purging with argon for 3 hours. This solution was added to the above solution [Example 3a] by syringe. The mixture is stirred at 60° C. under argon for 48 hours. The solvent is removed by evaporation under vacuum. (viscous yellow oil; 1H NMR: total conversion ˜100%; GPC: not available due to incomplete solubility in THF).

reactant | di(ethylene glycol) ethyl ether acrylate | 0.208 mol, 39.2 g | CCOCCOCCOC(=O)C=C | C9H16O4
reactant | AIBN | 0.0056 mol, 916 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Poly(Butyl Acrylate) | CCCCOC(=O)C=C | C7H12O2
